US07115591B2
2-(2,2,2-Trifluoroethyl)-4-(2-propoxy)-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone
A solution of 2-(2,2,2-trifluoroethyl)-4-(2-propoxy)-5-bromo-3(2H)-pyridazinone (1.2 g, 3.8 mmol), 4-(methylthio)phenylboronic acid (704 mg, 4.19 mmol), tetrakis(triphenylphosphine)palladium(0) (220 mg, 5% mmol) and cesium carbonate (2.72 g, 8.3 mmol) in 20 mL of ethylene glycol dimethyl ether was heated to reflux for 5 hours. The mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with water, brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography on silica gel (94:6 hexanes/ethyl acetate). The product was obtained as a greenish solid (yield: 1.1 g, 81%). 1H NMR (300 MHz, CDCl3) δ 1.19 (d, J=7.5 Hz, 6H), 2.55 (s, 3H), 4.83 (q, J=9 Hz, 2H), 5.28 (h, J=6 Hz, 1H), 7.32 (d, J=9 Hz, 2H), 7.52 (d, J=9 Hz, 2H), 7.85 (s, 1H). MS (DCI) m/z 359 (M+H)+.

reactant | 2-(2,2,2-trifluoroethyl)-4-(2-propoxy)-5-bromo-3(2H)-pyridazinone | 3.8 mmol, 1.2 g | FC(CN1N=CC(=C(C1=O)OC(C)C)Br)(F)F | C9H10BrF3N2O2
reactant | 4-(methylthio)phenylboronic acid | 4.19 mmol, 704 mg | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | cesium carbonate | 8.3 mmol, 2.72 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 220 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,2,2-Trifluoroethyl)-4-(2-propoxy)-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone | yield: 1.1 g, 81% | FC(CN1N=CC(=C(C1=O)OC(C)C)C1=CC=C(C=C1)SC)(F)F | C16H17F3N2O2S
